US06930123B2
Preparation of 2-[[3-(2-amino-1,2-dioxoethyl)-1-benzyl-2-ethyl-1H-benz[f]indol-4-yl]oxy]acetic acid benzyl ester.
Preparation of (1-benzyl-2-ethyl-1H-benzo[f]indol-4-yloxy)acetic acid benzyl ester. A mixture of 1-benzyl-2-ethyl-1,9-dihydrobenzo[f]indol-4-one (200 mg, 0.67 mmol), cesium carbonate (436 mg, 1.39 mmol), and ethyl bromoacetate (0.21 mL, 1.34 mmol) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 20 h. The mixture was diluted with water and the resulting solution extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed three times with water, filtered through a plug of silica gel, and concentrated in vacuo. Chromatography (hexane/methylene chloride) of the residue provided 120 mg (40%) of the title compound as a yellow film.

reactant | (1-benzyl-2-ethyl-1H-benzo[f]indol-4-yloxy)acetic acid benzyl ester | C(C1=CC=CC=C1)OC(COC1=C2C=C(N(C2=CC2=C1C=CC=C2)CC2=CC=CC=C2)CC)=O | C30H27NO3
reactant | 1-benzyl-2-ethyl-1,9-dihydrobenzo[f]indol-4-one | 0.67 mmol, 200 mg | C(C1=CC=CC=C1)N1C(=CC=2C(C3=C(CC12)C=CC=C3)=O)CC | C21H19NO
reactant | cesium carbonate | 1.39 mmol, 436 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 1.34 mmol, 0.21 mL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[[3-(2-amino-1,2-dioxoethyl)-1-benzyl-2-ethyl-1H-benz[f]indol-4-yl]oxy]acetic acid benzyl ester | 120 mg, 40% | C(C1=CC=CC=C1)OC(COC1=C2C(=C(N(C2=CC2=C1C=CC=C2)CC2=CC=CC=C2)CC)C(C(=O)N)=O)=O | C32H28N2O5
